US08486970B2
To a mixed liquid of 1.51 g of potassium cyanide and 70 ml of acetonitrile, 6.12 g of 1,4,7,10,13,16-hexaoxacyclooctadecane was added, followed by stirring for 2 hours. Thereafter, a solution of 5.00 g of tert-butyl 3-(chloromethyl)benzoate in 30 ml of acetonitrile was added thereto, followed by stirring at room temperature for 18 hours. The reaction solution was concentrated, diluted with diethyl ether-hexane (1:1), and then washed with water and a saturated aqueous sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was evaporated, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate) to obtain 3.86 g of tert-butyl 3-(cyanomethyl)benzoate as a colorless oily substance.

reactant | potassium cyanide | 1.51 g | [C-]#N.[K+]
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 6.12 g | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | tert-butyl 3-(chloromethyl)benzoate | 5.00 g | ClCC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C12H15ClO2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | tert-butyl 3-(cyanomethyl)benzoate | 3.86 g | C(#N)CC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C13H15NO2
